US09169254B2
NaBH4 (1.45 g, 38.25 mmol) was added in small portions to a mixture of 4-bromo-3-methyl-benzonitrile (2.50 g, 12.8 mmol), NiCl2 (1.65 g, 12.8 mmol) and Boc2O (5.57 g, 25.5 mmol) in anhydrous MeOH (130 ml) at 0° C. The mixture was stirred at room temperature for two hours and then concentrated under reduced pressure. Ethyl acetate and water were added to the resulting residue, and the mixture was filtered through celite. The two-layer solution was separated, and the aqueous layer was then further extracted with ethyl acetate. The organic layers were combined, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/0→4/1) to give (4-bromo-3-methyl-benzyl)-carbamic acid tert-butyl ester as a white solid (2.42 g, 63%).

reactant | NaBH4 | 38.25 mmol, 1.45 g | [BH4-].[Na+]
reactant | 4-bromo-3-methyl-benzonitrile | 12.8 mmol, 2.50 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | Boc2O | 25.5 mmol, 5.57 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 130 ml | CO | CH4O
catalyst | NiCl2 | 12.8 mmol, 1.65 g | Cl[Ni]Cl
product | (4-bromo-3-methyl-benzyl)-carbamic acid tert-butyl ester | 2.42 g, 63% | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Br)C)=O | C13H18BrNO2
